US04631085
The above dyes can be prepared by a conventional method. For example, the dye (1) given in Table 1, which is a red water-soluble dye, can be prepared as follows: One mole of 4-nitrobenzoyl chloride is allowed to react with 2 moles of morpholine in dioxane at a temperature below room temperature, so that 4-nitrobenzoylmorpholine (m.p. 108° 109° C.) is obtained. The thus obtained nitro compound is reduced in the presence of a 5%Pd-C catalyst to produce 4-aminobenzoylmorpholine. This is subjected to diazotization by a conventional method to produce a diazonium compound, which is then coupled with H-acid in an alkaline solution, followed by subjecting it to acidic precipitation, so that the dye (I) in Table 1 is obtained.

reactant | water | O | H2O
reactant | 4-nitrobenzoyl chloride | One mole | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | morpholine | 2 moles | N1CCOCC1 | C4H9NO
reactant | 4-nitrobenzoylmorpholine | [N+](=O)([O-])C1=CC=C(C(=O)N2CCOCC2)C=C1 | C11H12N2O4
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | Pd-C | [Pd] | Pd
product | 4-aminobenzoylmorpholine | NC1=CC=C(C(=O)N2CCOCC2)C=C1 | C11H14N2O2
